US05981525
(2Z,4E)-5-(2-Indolyl)-2-methoxy-2,4-pentadienoic acid.
To a solution of KOH (0.26 g, 4.7 mmol) in methanol (13 ml), methyl (2Z,4E)-5-(2-indolyl)-2-methoxy-2,4-pentadienoate (0.3 g, 1.17 mmol) was added and the solution was heated at 50° C. for 1 hour under nitrogen. The solvent was removed under vacuum and the residue was dissolved in water (20 ml) and washed with isopropyl ether. The aqueous phase was adjusted to pH 5 with 10% HCl and then extracted with ethyl acetate. The organic layer was washed with water, dried over Na2SO4 and the solvent removed under reduced pressure obtaining, after trituration with isopropyl ether, 0.15 g (52.7%) of the title compound as a solid, m.p.=189-190° C.

reactant | KOH | 4.7 mmol, 0.26 g | [OH-].[K+]
reactant | methyl (2Z,4E)-5-(2-indolyl)-2-methoxy-2,4-pentadienoate | 1.17 mmol, 0.3 g | N1C(=CC2=CC=CC=C12)/C=C/C=C(/C(=O)OC)\OC | C15H15NO3
reactant | isopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | methanol | 13 ml | CO | CH4O
product | (2Z,4E)-5-(2-Indolyl)-2-methoxy-2,4-pentadienoic acid | 0.15 g, 52.7% | N1C(=CC2=CC=CC=C12)/C=C/C=C(/C(=O)O)\OC | C14H13NO3
